US08859580B2
[(2R,6R,11S)-7-Amino-8-methoxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(3H-benzoimidazol-5-yl)-methanone
A mixture of 10% palladium on carbon (1.0 g) and (3H-benzoimidazol-5-yl)-[(2R,6R,11S)-8-methoxy-6,11-dimethyl-7-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone (1.50 g) in methanol (20 mL) is shaken under hydrogen atmosphere at room temperature for 1 d. Then, the mixture is filtered and the filtrate is concentrated under reduced pressure to give the title compound as a foam-like solid.

reactant | (3H-benzoimidazol-5-yl)-[(2R,6R,11S)-8-methoxy-6,11-dimethyl-7-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone | 1.50 g | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C(=C(C=C3)OC)[N+](=O)[O-] | C23H24N4O4
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | [(2R,6R,11S)-7-Amino-8-methoxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(3H-benzoimidazol-5-yl)-methanone | NC1=C(C=CC=2C[C@H]3N(CC[C@@](C21)([C@@H]3C)C)C(=O)C3=CC2=C(N=CN2)C=C3)OC | C23H26N4O2
